US06057304
100 mg of 1-(6-amino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-l-yl)methanephosphonic acid is adjusted in 20 ml of water to a pH of 9.5 with a saturated sodium carbonate solution and combined with 0.2 ml of acetic anhydride. After one hour of stirring, the mixture is concentrated, dissolved in a minimum amount of water, introduced into an ion exchanger (IR 120, strongly acidic), and eluted with water: The corresponding fractions are combined, concentrated, and dried, thus obtaining 110 mg of 1-(6-acetylamino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid, mp: 120° C.

reactant | 1-(6-amino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-l-yl)methanephosphonic acid | 100 mg | NC=1C=C2NC(C(N(C2=CC1)CP(O)(=O)O)=O)=O | C9H10N3O5P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 20 ml | O | H2O
product | 1-(6-acetylamino-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl)methanephosphonic acid | 110 mg | C(C)(=O)NC=1C=C2NC(C(N(C2=CC1)CP(O)(=O)O)=O)=O | C11H12N3O6P
